US05574055
4.9 g of 1-(4-aminophenyl)-4-piperidinone were suspended in a mixture of 30 ml of tetrahydrofuran and 9 ml of water under argon and treated with 3.3 g of sodium hydrogen carbonate. Then, a solution of 2.7 ml of ethyl chloroformate in 20 ml of tetrahydrofuran was added dropwise at room temperature while stirring vigorously and, after completion of-the addition, the mixture was stirred for a further 1 h. After adding water and ethyl acetate the phases were separated and the aqueous phase was extracted with ethyl acetate. The organic phases were combined, dried with magnesium sulfate and concentrated. The residue (6.6 g) was chromatographed over silica gel 60 with ethyl acetate/hexane mixtures (1:2-1:0). Crystallization from diethyl ether yielded 3.8 g of ethyl 4-(4-oxo-piperidin-1-yl)-phenylcarbamate as grey crystals. M.p.: 145°-146°.

reactant | 1-(4-aminophenyl)-4-piperidinone | 4.9 g | NC1=CC=C(C=C1)N1CCC(CC1)=O | C11H14N2O
reactant | sodium hydrogen carbonate | 3.3 g | C(O)([O-])=O.[Na+]
reactant | ethyl chloroformate | 2.7 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 9 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 4-(4-oxo-piperidin-1-yl)-phenylcarbamate | 3.8 g | O=C1CCN(CC1)C1=CC=C(C=C1)NC(OCC)=O | C14H18N2O3
